US07932284B2
1,2-Diethyl-3-iodo-6-nitro-1H-indole (25) (R1, R2=Et)
Add to a solution of 2-ethyl-3-iodo-6-nitro-1H-indole (0.30 g, 00.95 mmol) in anhydrous DMF (5 mL) sodium hexamethyldisilylamide (1.0M in THF, 1.0 mL, 1.00 mmol) dropwise followed by ethyl iodide (0.23 mL, 2.85 mmol) and stir 3 hours at ambient temperature. Quench the reaction with 1N HCl and add ethyl acetate. Wash the organic layer 2×1N HCl, 1× brine. Dry the organic layer over sodium sulfate, concentrate in vacuo, and flash chromatograph with 20% ethyl acetate hexane to afford 0.28 g (86%) of the title compound.

reactant | 2-ethyl-3-iodo-6-nitro-1H-indole | 0.30 g | C(C)C=1NC2=CC(=CC=C2C1I)[N+](=O)[O-] | C10H9IN2O2
reactant | DMF | 1.00 mmol, 1.0M, 5 mL | CN(C)C=O | C3H7NO
reactant | ethyl iodide | 2.85 mmol, 0.23 mL | C(C)I | C2H5I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,2-Diethyl-3-iodo-6-nitro-1H-indole | 0.28 g, 86% | C(C)N1C(=C(C2=CC=C(C=C12)[N+](=O)[O-])I)CC | C12H13IN2O2
